US07323475B2
1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide
Prepared from 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and 2-amino-propane-1,3-diol analogously to Example C-1: MS-(−)-ion: 295.2.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | 2-amino-propane-1,3-diol | NC(CO)CO | C3H9NO2
product | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid (2-hydroxy-1-hydroxymethyl-ethyl)-amide | OCC(CO)NC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C13H13ClN2O4
